US09107916B2
C. (3E)-4-(dimethylamino)-1-phenylbut-3-en-2-one
A solution of (3E)-4-hydroxy-1-phenylbut-3-en-2-one (1.2 g, 7.4 mmol) in THF (20 mL) was added dimethylamine hydrochloride (1.8 g, 22.2 mmol), K2CO3 (6.1 g, 44.4 mmol) and the mixture was stirred at rt overnight. The mixture was concentrated and purified by flash column chromatography (PE/EtOAc=10:1) to give the title compound (0.6 g, 43%) as a yellow oil. [M+H] Calc'd for C12H15NO, 190. Found, 190.

reactant | (3E)-4-hydroxy-1-phenylbut-3-en-2-one | 7.4 mmol, 1.2 g | O/C=C/C(CC1=CC=CC=C1)=O | C10H10O2
reactant | dimethylamine hydrochloride | 22.2 mmol, 1.8 g | Cl.CNC
reactant | K2CO3 | 44.4 mmol, 6.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (3E)-4-(dimethylamino)-1-phenylbut-3-en-2-one | 0.6 g, 43% | CN(/C=C/C(CC1=CC=CC=C1)=O)C | C12H15NO
